US07179804B2
1-(3,5-bis-trifluoromethyl-benzyl)-5-chloro-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester
Combine PCl5 (5.73 g, 27.5 mmol) with a solution of 1-(3,5-bis-trifluoromethyl-benzyl)-5-hydroxy-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester (5.30 g, 13.8 mmol) in toluene (150 mL) and heat to 50° C. After 2 h, cool to RT, concentrate solution and dissolve crude material in ether (100 mL). Wash the organic solution with saturated NaHCO3 (2×100 mL) and brine (100 mL), dry, filter, and concentrate. Purify the crude material by passing through a short plug of silica gel using a linear gradient of 50% to 80% EtOAc/hexanes, then recrystallize from 1:1 diethyl ether:petroleum ether (150 mL). MS (ES) 402.0 (M+H)+; 1H NMR (400 MHz, CDCl3) δ 7.88 (s, 1H), 7.76 (s, 2H), 5.67 (s, 2H), 4.43 (q, 2H, J=7.0 Hz), 1.40 (t, 3H, J=7.0 Hz).

reactant | PCl5 | 27.5 mmol, 5.73 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 1-(3,5-bis-trifluoromethyl-benzyl)-5-hydroxy-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester | 13.8 mmol, 5.30 g | C(C)OC(=O)C=1N=NN(C1O)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C14H11F6N3O3
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(3,5-bis-trifluoromethyl-benzyl)-5-chloro-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=NN(C1Cl)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C14H10ClF6N3O2
